US07071220B2
Synthesis of ethyl 4-(5-chloro-3-methylbenzo[b]thiophene-2-sulfonylamino)benzoate (Compound 14)
Into 3 mL of pyridine was dissolved 60 mg of ethyl 4-aminobenzoate, and 123 mg of 5-chloro-2-chlorosulfonyl-3-methylbenzo[b]thiophene was added at 0° C., followed by 2 hours of stirring at room temperature. After confirmation of disappearance of the starting material, 2 mol/L hydrochloric acid was added, followed by extraction with ether. The organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure and the resulting crude product was purified by silica gel column chromatography (ethyl acetate/hexane=1/3) to obtain 80 mg of the title compound as light pink powder.

reactant | ethyl 4-aminobenzoate | 60 mg | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 5-chloro-2-chlorosulfonyl-3-methylbenzo[b]thiophene | 123 mg | ClC1=CC2=C(SC(=C2C)S(=O)(=O)Cl)C=C1 | C9H6Cl2O2S2
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 4-(5-chloro-3-methylbenzo[b]thiophene-2-sulfonylamino)benzoate | 80 mg | ClC1=CC2=C(SC(=C2C)S(=O)(=O)NC2=CC=C(C(=O)OCC)C=C2)C=C1 | C18H16ClNO4S2
